US04728655
To a solution of 6.2 g of 3-[3-(1-piperidinylmethyl) phenoxy]-1-propanamine (prepared according to British Pat. No. 2,023,133) in 20 ml of absolute ethanol, 7.3 g of ethyl N-p-bromobenzenesulphonyl-formimidate dissolved in 20 ml of absolute ethanol are dropwise added at room temperature. The mixture is kept under stirring for 1 hour and the ethanol is removed by distillation under reduced pressure. The resulting residue is purified by dissolving in 60 ml of ethyl acetate and 25 ml of water, then acidulated with 3N hydrochloric acid up to pH2. The organic phase is case aside and the aqueous phase is basified in the presence of 20 ml of sodium acetate with 1N sodium hydroxide up to pH8. The organic phase is washed with water, dried over magnesium sulphate and evaporated till dryness. The resulting residue is chromatographied by 60 silicagel column with chloroform-methanol (8:2) as eluent. 8.3 g of N-p-bromobenzene-sulphonyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl] formamidine are obtained.

reactant | 3-[3-(1-piperidinylmethyl) phenoxy]-1-propanamine | 6.2 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | ethyl N-p-bromobenzenesulphonyl-formimidate | 7.3 g | BrC1=CC=C(C=C1)S(=O)(=O)N=COCC | C9H10BrNO3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-p-bromobenzene-sulphonyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl] formamidine | 8.3 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C22H28BrN3O3S
